US08809372B2
To a stirred solution of 2-(4-fluorophenyl)-1,3,4-oxadiazole (0.8 g, 2.4 mmol) in THF (10 mL) was added LDA (2.9 mmol) at −78° C. (0.308 g, 2.9 mmol) and mixture was stirred for 20 min. A solution of 4-acetyl pyridine (0.377 g, 3.1 mmol) in THF (10 mL) was added at −78° C. and stirred for 2 h. The reaction mixture was quenched with saturated NH4Cl solution (50 mL), extracted with ethyl acetate (3×60 mL), washed with brine solution (60 mL), dried over anhydrous Na2SO4 and concentrated under reduced pressure. The crude product was purified by silica gel column chromatography (100-200 mesh; using 90% ethyl acetate in hexanes) to obtain 1-(5-(4-fluorophenyl)-1,3,4-oxadiazol-2-yl)-1-(pyridin-4-yl)ethanol as off-white solid (combined yield for 2 batches: 0.051 g, 4% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.58 (s, 2H), 7.99 (t, 2H), 7.48 (d, 2H), 7.04 (d, 2H), 6.98 (s, 1H), 1.94 (s, 3H); LC-MS m/z calculated for [M+H]+ 286.09, found 286.08.

reactant | 2-(4-fluorophenyl)-1,3,4-oxadiazole | 2.4 mmol, 0.8 g | FC1=CC=C(C=C1)C=1OC=NN1 | C8H5FN2O
reactant | LDA | 2.9 mmol | [Li+].CC(C)[N-]C(C)C
reactant | 4-acetyl pyridine | 3.1 mmol, 0.377 g | C(C)(=O)C1=CC=NC=C1 | C7H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(5-(4-fluorophenyl)-1,3,4-oxadiazol-2-yl)-1-(pyridin-4-yl)ethanol | 4% yield | FC1=CC=C(C=C1)C1=NN=C(O1)C(C)(O)C1=CC=NC=C1 | C15H12FN3O2
